US08440689B2
6-((1R,2S)-2-Aminocyclohexylamino)-4-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one
A mixture of tert-butyl (1S,2R)-2-(4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate (94 mg, 0.22 mmol) and TFA (1 mL, 12.98 mmol) in DCM (1 mL) was stirred at RT for 2 h. The mixture was subsequently concentrated. The residue was purified by preparative HPLC (01-25; 5.45 min) and basified to give the title compound as a yellow solid (10 mg, 14%). 1H NMR (500 MHz, DMSO-d6) δ ppm 122-1.61 (m, 8H), 3.63 (s, 3H), 4.19 (s, 2H), 6.46 (br s, 1H), 7.98 (s, 1H), 8.29 (s, 1H), 8.85 (s, 1H). [M+H] calc'd for C17H22N6O, 327. found, 327.

reactant | tert-butyl (1S,2R)-2-(4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate | 0.22 mmol, 94 mg | CN1N=CC(=C1)C1=NC(=CC2=C1C(NC2)=O)N[C@H]2[C@H](CCCC2)NC(OC(C)(C)C)=O | C22H30N6O3
reactant | TFA | 12.98 mmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 6-((1R,2S)-2-Aminocyclohexylamino)-4-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 10 mg, 14% | N[C@@H]1[C@@H](CCCC1)NC1=CC2=C(C(=N1)C=1C=NN(C1)C)C(NC2)=O | C17H22N6O
